US04828837
Minoxidil/Taurocholic Acid Composition
Taurocholic acid, sodium salt, was converted to a free acid form by the procedure of Example 11. About 100 mg by weight of the free acid form was mixed with 20 mg of dry minoxidil in 1 ml pH 5.5 buffer, yielding a clear solution with a final minoxidil concentration of about 2% by weight. Stirring was continued until a clear solution was obtained, after which the pH of the solution was readjusted to 5.0. No crystals were observed on examination of the composition with a polarizing microscope.

reactant | Taurocholic acid | C[C@H](CCC(=O)NCCS(=O)(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C.[Na+]
reactant | sodium | [Na] | Na
reactant | minoxidil | 20 mg | C=1C(=[N+](C(=NC1N2CCCCC2)N)[O-])N | C9H15N5O
product | Minoxidil Taurocholic Acid | C=1C(=[N+](C(=NC1N2CCCCC2)N)[O-])N.C[C@H](CCC(=O)NCCS(=O)(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C.[Na+] | InChI=1S/C26H45NO7S.C9H15N5O.Na/c1-15(4-7-23(31)27-10-11-35(32,33)34)18-5-6-19-24-20(14-22(30)26(18,19)3)25(2)9-8-17(28)12-16(25)13-21(24)29;10-7-6-8(12-9(11)14(7)15)13-4-2-1-3-5-13;/h15-22,24,28-30H,4-14H2,1-3H3,(H,27,31)(H,32,33,34);6H,1-5,10H2,(H2,11,12);/q;;+1/p-1/t15-,16+,17-,18-,19+,20+,21-,22+,24+,25+,26-;;/m1../s1
